US04013690
a. 4'-isobutyl-2'-methoxy-acetophenone
46 g of 3 -isobutyl anisole are added to 500 cc of absolute benzene, and 22 g of acetyl chloride are added. 73 g of tin(IV) chloride are subsequently added dropwise while stirring and cooling at 5°-10°. After stirring at 23° for 16 hours, the reaction mixture is poured on ice, washed once with 2 N hydrochloric acid, twice with a 2 N caustic soda solution and once with water, and the water phases are again extracted twice with benzene. The organic phases are dried over anhydrous sodium sulphate and concentrated. The desired product is obtained in amorphous, pure form from methanol with the careful addition of water. NMR spectrum (CDCl3) inter alia δ=0.9 d (J=6 Hz), 1.3-2.3 m, 2.45 s, 2.55 s, 3.9 s, 6.6-6.9 m, 7.65 d (J=8.6).

reactant | 3 -isobutyl anisole | 46 g | C(C(C)C)C=1C=C(C=CC1)OC | C11H16O
reactant | acetyl chloride | 22 g | C(C)(=O)Cl | C2H3ClO
reactant | tin(IV) chloride | 73 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | benzene | 500 cc | C1=CC=CC=C1 | C6H6
product | 4'-isobutyl-2'-methoxy-acetophenone | C(C(C)C)C1=CC(=C(C=C1)C(C)=O)OC | C13H18O2
